US06326359B1
(2R,3R,4S,5R)-2-{2-(2-Aminoethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(methoxymethyl)tetrahydro-3,4-furandiol
N-{2-(2-Aminoethyl)-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-9H-purin-6-yl}-N-(2,2-diphenylethyl)amine (1.07 g, 1.46 mmol) (preparation 18) was dissolved in dry tetrahydrofuran (4 ml), a 1M solution of tetra-n-butylammonium fluoride in tetrahydrofuran (6 ml, 6 mmol) added and the mixture stirred at room temperature for 2.5 hr. The solvent was removed under reduced pressure and the residue dissolved in dichloromethane. The solvent was again removed under reduced pressure and the residue purified by column chromatography on silica gel eluting with a solvent system of dichloromethane:methanol:ammonia (90:10:1), to give the product as a foam (760 mg). MS: 505 (MH+).

reactant | N-{2-(2-Aminoethyl)-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-9H-purin-6-yl}-N-(2,2-diphenylethyl)amine | 1.46 mmol, 1.07 g | NCCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H60N6O4Si2
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mmol, 6 ml | O1CCCC1 | C4H8O
product | (2R,3R,4S,5R)-2-{2-(2-Aminoethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(methoxymethyl)tetrahydro-3,4-furandiol | 760 mg | NCCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H32N6O4
